### PR TITLE
Minkowski multiplication for semigroups, monoids, and commutative monoids

### PR DESCRIPTION
**Pull request by lowasser**

### CODE REVIEW

File: src/group-theory/minkowski-multiplication-commutative-monoids.lagda.md [hunk 1]
```diff
@@ -0,0 +1,217 @@
+# Minkowski multiplication of commutative monoid subtypes
```
Comment (fredrik-bakke) [inline src/group-theory/minkowski-multiplication-commutative-monoids.lagda.md:1]:
```suggestion
# Minkowski multiplication on subsets of a commutative monoid
```

File: src/group-theory/minkowski-multiplication-commutative-monoids.lagda.md [hunk 2]
```diff
@@ -0,0 +1,217 @@
...
+</details>
+
+## Idea
+
+For two [subsets](group-theory.subsets-commutative-monoids.md) `A`, `B` of a
+[commutative monoid](group-theory.commutative-monoids.md) `M`, the Minkowski
+multiplication of `A` and `B` is the set of elements that can be formed by
+multiplying an element of `A` and an element of `B`. (This is more usually
+referred to as a Minkowski sum, but as the operation on commutative monoids is
+referred to as `mul`, we use multiplicative terminology.)
```
Comment (fredrik-bakke) [inline src/group-theory/minkowski-multiplication-commutative-monoids.lagda.md:33]:
```suggestion
Given two [subsets](group-theory.subsets-commutative-monoids.md) `A` and `B` of a
[commutative monoid](group-theory.commutative-monoids.md) `M`, the {{#concept "Minkowski
multiplication" Disambiguation="on subsets of a commutative monoid" Agda=minkowski-mul-Commutative-Monoid}} of `A` and `B` is the [set](foundation-core.sets.md) of elements that can be formed by
multiplying an element of `A` and an element of `B`.
```

File: src/group-theory/minkowski-multiplication-commutative-monoids.lagda.md [hunk 3]
```diff
@@ -0,0 +1,217 @@
...
+  commutative-minkowski-mul-leq-Commutative-Monoid :
+    minkowski-mul-Commutative-Monoid M A B ⊆
+    minkowski-mul-Commutative-Monoid M B A
+  commutative-minkowski-mul-leq-Commutative-Monoid x =
+    elim-exists
+      (minkowski-mul-Commutative-Monoid M B A x)
+      ( λ (a , b) (a∈A , b∈B , x=ab) →
+        intro-exists
+          ( b , a)
+          ( b∈B , a∈A , x=ab ∙ commutative-mul-Commutative-Monoid M a b))
```
Comment (fredrik-bakke) [inline src/group-theory/minkowski-multiplication-commutative-monoids.lagda.md:72]: This looks like a `map-exists` to me 👀👀

File: src/group-theory/minkowski-multiplication-commutative-monoids.lagda.md [hunk 4]
```diff
@@ -0,0 +1,217 @@
...
+    minkowski-mul-Commutative-Monoid M B A
+  commutative-minkowski-mul-Commutative-Monoid =
+    antisymmetric-sim-subtype
+      ( minkowski-mul-Commutative-Monoid M A B)
+      ( minkowski-mul-Commutative-Monoid M B A)
+      ( commutative-minkowski-mul-leq-Commutative-Monoid M A B ,
+        commutative-minkowski-mul-leq-Commutative-Monoid M B A)
+```
+
+### Minkowski multiplication on a commutative monoid is a commutative monoid
```
Comment (fredrik-bakke) [inline src/group-theory/minkowski-multiplication-commutative-monoids.lagda.md:92]:
```suggestion
### Minkowski multiplication on subsets of a commutative monoid is a commutative monoid
```

File: src/group-theory/minkowski-multiplication-commutative-monoids.lagda.md [hunk 5]
```diff
@@ -0,0 +1,217 @@
...
+
+  minkowski-mul-Commutative-Monoid :
+    subset-Commutative-Monoid (l1 ⊔ l2 ⊔ l3) M
+  minkowski-mul-Commutative-Monoid =
+    minkowski-mul-Monoid (monoid-Commutative-Monoid M) A B
+```
+
+## Properties
+
+### Minkowski multiplication on a commutative monoid is commutative
```
Comment (fredrik-bakke) [inline src/group-theory/minkowski-multiplication-commutative-monoids.lagda.md:53]:
```suggestion
### Minkowski multiplication on subsets of a commutative monoid is commutative
```

File: src/group-theory/minkowski-multiplication-commutative-monoids.lagda.md [hunk 6]
```diff
@@ -0,0 +1,217 @@
...
+    (A : subset-Commutative-Monoid l2 M) →
+    (B : subset-Commutative-Monoid l3 M) →
+    is-inhabited-subtype A →
+    is-inhabited-subtype B →
+    is-inhabited-subtype (minkowski-mul-Commutative-Monoid M A B)
+  minkowski-mul-inhabited-is-inhabited-Commutative-Monoid =
+    minkowski-mul-inhabited-is-inhabited-Monoid (monoid-Commutative-Monoid M)
+```
+
+### Containment is preserved by Minkowski multiplication of monoid subsets
```
Comment (fredrik-bakke) [inline src/group-theory/minkowski-multiplication-commutative-monoids.lagda.md:127]:
```suggestion
### Containment of subsets is preserved by Minkowski multiplication
```

File: src/group-theory/minkowski-multiplication-commutative-monoids.lagda.md [hunk 7]
```diff
@@ -0,0 +1,217 @@
...
+
+  commutative-monoid-minkowski-mul-Commutative-Monoid :
+    Commutative-Monoid (lsuc l)
+  pr1 commutative-monoid-minkowski-mul-Commutative-Monoid =
+    monoid-minkowski-mul-Monoid (monoid-Commutative-Monoid M)
+  pr2 commutative-monoid-minkowski-mul-Commutative-Monoid =
+    commutative-minkowski-mul-Commutative-Monoid M
+```
+
+### The Minkowski multiplication of two inhabited subsets of a commutative monoid is inhabited
```
Comment (fredrik-bakke) [inline src/group-theory/minkowski-multiplication-commutative-monoids.lagda.md:108]:
```suggestion
### The Minkowski multiplication of two inhabited subsets is inhabited
```

File: src/group-theory/minkowski-multiplication-commutative-monoids.lagda.md [hunk 8]
```diff
@@ -0,0 +1,217 @@
...
+    minkowski-mul-Commutative-Monoid M B A'
+  preserves-leq-right-minkowski-mul-Commutative-Monoid =
+    preserves-leq-right-minkowski-mul-Monoid
+      ( monoid-Commutative-Monoid M)
+      ( B)
+      ( A)
+      ( A')
+```
+
+### Similarity is preserved by Minkowski multiplication of monoid subsets
```
Comment (fredrik-bakke) [inline src/group-theory/minkowski-multiplication-commutative-monoids.lagda.md:157]:
```suggestion
### Similarity of subsets is preserved by Minkowski multiplication
```

File: src/group-theory/minkowski-multiplication-monoids.lagda.md [hunk 9]
```diff
@@ -0,0 +1,225 @@
+# Minkowski multiplication of monoid subtypes
```
Comment (fredrik-bakke) [inline src/group-theory/minkowski-multiplication-monoids.lagda.md:1]:
```suggestion
# Minkowski multiplication on subsets of a monoid
```

File: src/group-theory/minkowski-multiplication-monoids.lagda.md [hunk 10]
```diff
@@ -0,0 +1,225 @@
...
+</details>
+
+## Idea
+
+For two [subsets](group-theory.subsets-monoids.md) `A`, `B` of a
+[monoid](group-theory.monoids.md) `M`, the Minkowski multiplication of `A` and
+`B` is the set of elements that can be formed by multiplying an element of `A`
+and an element of `B`. (This is more usually referred to as a Minkowski sum, but
+as the operation on monoids is referred to as `mul`, we use multiplicative
+terminology.)
```
Comment (fredrik-bakke) [inline src/group-theory/minkowski-multiplication-monoids.lagda.md:36]:
```suggestion
Given two [subsets](group-theory.subsets-monoids.md) `A` and `B` of a
[monoid](group-theory.monoids.md) `M`, the {{#concept "Minkowski
multiplication" Disambiguation="on subsets of a monoid" Agda=minkowski-mul-Monoid}} of `A` and `B` is the [set](foundation-core.sets.md) of elements that can be formed by
multiplying an element of `A` and an element of `B`. This binary operation defines a monoid structure on the [powerset](foundation.powersets.md) of `M`.
```

File: src/group-theory/minkowski-multiplication-monoids.lagda.md [hunk 11]
```diff
@@ -0,0 +1,243 @@
...
+  (B : subset-Monoid l3 M)
+  where
+
+  minkowski-mul-Monoid : subset-Monoid (l1 ⊔ l2 ⊔ l3) M
+  minkowski-mul-Monoid = minkowski-mul-Semigroup (semigroup-Monoid M) A B
+```
+
+## Properties
+
+### Minkowski multiplication of monoid subsets is associative
```
Comment (fredrik-bakke) [inline src/group-theory/minkowski-multiplication-monoids.lagda.md:54]:
```suggestion
### Minkowski multiplication on subsets of a monoid is associative
```

File: src/group-theory/minkowski-multiplication-monoids.lagda.md [hunk 12]
```diff
@@ -0,0 +1,243 @@
...
+  where
+
+  associative-minkowski-mul-Monoid :
+    minkowski-mul-Monoid M (minkowski-mul-Monoid M A B) C ＝
+    minkowski-mul-Monoid M A (minkowski-mul-Monoid M B C)
+  associative-minkowski-mul-Monoid =
+    associative-minkowski-mul-Semigroup (semigroup-Monoid M) A B C
+```
+
+### Unit laws for Minkowski multiplication of monoid subsets
```
Comment (fredrik-bakke) [inline src/group-theory/minkowski-multiplication-monoids.lagda.md:72]:
```suggestion
### Unit laws for Minkowski multiplication on subsets of a monoid
```

File: src/group-theory/minkowski-multiplication-monoids.lagda.md [hunk 13]
```diff
@@ -0,0 +1,243 @@
...
+              ＝ mul-Monoid M a' (unit-Monoid M) by ap (mul-Monoid M a') z=1
+              ＝ a' by right-unit-law-mul-Monoid M a'))
+          ( a'∈A))
+  pr2 right-unit-law-minkowski-mul-Monoid a a∈A =
+    intro-exists
+      ( a , unit-Monoid M)
+      ( a∈A , refl , inv (right-unit-law-mul-Monoid M a))
+```
+
+### Minkowski multiplication of subtypes of a monoid forms a monoid
```
Comment (fredrik-bakke) [inline src/group-theory/minkowski-multiplication-monoids.lagda.md:122]:
```suggestion
### Minkowski multiplication on subsets of a monoid forms a monoid
```

File: src/group-theory/minkowski-multiplication-monoids.lagda.md [hunk 14]
```diff
@@ -0,0 +1,243 @@
...
+    (A : subset-Monoid l2 M) →
+    (B : subset-Monoid l3 M) →
+    is-inhabited-subtype A →
+    is-inhabited-subtype B →
+    is-inhabited-subtype (minkowski-mul-Monoid M A B)
+  minkowski-mul-inhabited-is-inhabited-Monoid =
+    minkowski-mul-inhabited-is-inhabited-Semigroup (semigroup-Monoid M)
+```
+
+### Containment is preserved by Minkowski multiplication of monoid subsets
```
Comment (fredrik-bakke) [inline src/group-theory/minkowski-multiplication-monoids.lagda.md:169]:
```suggestion
### Containment of subsets is preserved by Minkowski multiplication
```

File: src/group-theory/minkowski-multiplication-monoids.lagda.md [hunk 15]
```diff
@@ -0,0 +1,243 @@
...
+  preserves-leq-left-minkowski-mul-Monoid =
+    preserves-leq-left-minkowski-mul-Semigroup (semigroup-Monoid M) B A A'
+
+  preserves-leq-right-minkowski-mul-Monoid :
+    A ⊆ A' → minkowski-mul-Monoid M B A ⊆ minkowski-mul-Monoid M B A'
+  preserves-leq-right-minkowski-mul-Monoid =
+    preserves-leq-right-minkowski-mul-Semigroup (semigroup-Monoid M) B A A'
+```
+
+### Similarity is preserved by Minkowski multiplication of monoid subsets
```
Comment (fredrik-bakke) [inline src/group-theory/minkowski-multiplication-monoids.lagda.md:191]:
```suggestion
### Similarity of subsets is preserved by Minkowski multiplication
```

File: src/group-theory/minkowski-multiplication-semigroups.lagda.md [hunk 16]
```diff
@@ -0,0 +1,244 @@
+# Minkowski multiplication of semigroup subtypes
```
Comment (fredrik-bakke) [inline src/group-theory/minkowski-multiplication-semigroups.lagda.md:1]:
```suggestion
# Minkowski multiplication on subsets of a semigroup
```

File: src/group-theory/minkowski-multiplication-semigroups.lagda.md [hunk 17]
```diff
@@ -0,0 +1,244 @@
...
+</details>
+
+## Idea
+
+For two [subsets](group-theory.subsets-semigroups.md) `A`, `B` of a
+[semigroup](group-theory.semigroups.md) `S`, the Minkowski multiplication of `A`
+and `B` is the set of elements that can be formed by multiplying an element of
+`A` and an element of `B`. (This is more usually referred to as a Minkowski sum,
+but as the operation on semigroups is referred to as `mul`, we use
+multiplicative terminology.)
```
Comment (fredrik-bakke) [inline src/group-theory/minkowski-multiplication-semigroups.lagda.md:40]:
```suggestion
Given two [subsets](group-theory.subsets-semigroups.md) `A` and `B` of a
[semigroup](group-theory.semigroups.md) `S`, the {{#concept "Minkowski multiplication" Disambiguation="on subsets of a semigroup" Agda=minkowski-mul-Semigroup}} of `A`
and `B` is the [set](foundation-core.sets.md) of elements that can be formed by multiplying an element of
`A` and an element of `B`. This binary operation defines a semigroup structure on the [powerset](foundation.powersets.md) of `S`.
```

File: src/group-theory/minkowski-multiplication-semigroups.lagda.md [hunk 18]
```diff
@@ -0,0 +1,244 @@
...
+  minkowski-mul-Semigroup c =
+    ∃
+      ( type-Semigroup G × type-Semigroup G)
+      ( λ (a , b) →
+        A a ∧ B b ∧ Id-Prop (set-Semigroup G) c (mul-Semigroup G a b))
+```
+
+## Properties
+
+### Minkowski multiplication of semigroup subsets is associative
```
Comment (fredrik-bakke) [inline src/group-theory/minkowski-multiplication-semigroups.lagda.md:62]:
```suggestion
### Minkowski multiplication on subsets of a semigroup is associative
```

File: src/group-theory/minkowski-multiplication-commutative-monoids.lagda.md (hunk 2 above)
Comment (VojtechStep) [reply src/group-theory/minkowski-multiplication-commutative-monoids.lagda.md:34]: I'm viewing this on my phone, but it looks like your suggestion has a linebreak in a concept, which shouldn't be there. Also Minkowski addition has a wikidata id that we should link to by adding the WDID and WD properties

File: src/group-theory/minkowski-multiplication-semigroups.lagda.md [hunk 19]
```diff
@@ -0,0 +1,244 @@
...
+    is-inhabited-subtype B →
+    is-inhabited-subtype (minkowski-mul-Semigroup G A B)
+  minkowski-mul-inhabited-is-inhabited-Semigroup =
+    map-binary-exists
+      ( is-in-subtype (minkowski-mul-Semigroup G A B))
+      ( mul-Semigroup G)
+      λ a b a∈A b∈B → intro-exists (a , b) (a∈A , b∈B , refl)
+```
+
+### Containment is preserved by Minkowski multiplication of semigroup subtypes
```
Comment (fredrik-bakke) [inline src/group-theory/minkowski-multiplication-semigroups.lagda.md:168]:
```suggestion
### Containment of subsets is preserved by Minkowski multiplication
```

File: src/group-theory/minkowski-multiplication-semigroups.lagda.md [hunk 20]
```diff
@@ -0,0 +1,244 @@
...
+  preserves-leq-left-minkowski-mul-Semigroup A⊆A' x =
+    map-tot-exists (λ (a , b) → map-product (A⊆A' a) id)
+
+  preserves-leq-right-minkowski-mul-Semigroup :
+    A ⊆ A' → minkowski-mul-Semigroup G B A ⊆ minkowski-mul-Semigroup G B A'
+  preserves-leq-right-minkowski-mul-Semigroup A⊆A' x =
+    map-tot-exists (λ (b , a) → map-product id (map-product (A⊆A' a) id))
+```
+
+### Similarity is preserved by Minkowski multiplication of semigroup subtypes
```
Comment (fredrik-bakke) [inline src/group-theory/minkowski-multiplication-semigroups.lagda.md:190]:
```suggestion
### Similarity of subsets is preserved by Minkowski multiplication
```

**Review by fredrik-bakke — APPROVED** [review]
Excellent work! Your coding style is improving very quickly.

I'm not a big fan of the `where claim = ...` pattern you've developed, and as you've noted it is strictly against the library guidelines. I'd be okay with merging this without fixing that pattern though.

File: src/group-theory/minkowski-multiplication-semigroups.lagda.md [hunk 21]
```diff
@@ -0,0 +1,244 @@
...
+```agda
+module _
+  {l1 l2 l3 l4 : Level}
+  (G : Semigroup l1)
+  (A : subset-Semigroup l2 G)
+  (B : subset-Semigroup l3 G)
+  (C : subset-Semigroup l4 G)
+  where
+
+  associative-minkowski-mul-sim-Semigroup :
```
Comment (fredrik-bakke) [inline src/group-theory/minkowski-multiplication-semigroups.lagda.md:73]: This should be `essentially-associative-minkowski-mul-Semigroup` or `sim-associative-minkowski-mul-Semigroup`

File: src/group-theory/minkowski-multiplication-semigroups.lagda.md [hunk 22]
```diff
@@ -0,0 +1,244 @@
...
+module _
+  {l1 l2 l3 : Level}
+  (G : Semigroup l1)
+  (A : subset-Semigroup l2 G)
+  (B : subset-Semigroup l3 G)
+  where
+
+  minkowski-mul-Semigroup : subset-Semigroup (l1 ⊔ l2 ⊔ l3) G
+  minkowski-mul-Semigroup c =
+    ∃
```
Comment (VojtechStep) [inline src/group-theory/minkowski-multiplication-semigroups.lagda.md:54]: The first argument of a single symbol function usually goes on the same line

File: src/group-theory/minkowski-multiplication-commutative-monoids.lagda.md (hunk 2 above)
Comment (fredrik-bakke) [reply src/group-theory/minkowski-multiplication-commutative-monoids.lagda.md:34]: Thanks for pointing it out

Comment (fredrik-bakke) [reply src/group-theory/minkowski-multiplication-commutative-monoids.lagda.md:34]: fixed

File: src/group-theory/minkowski-multiplication-semigroups.lagda.md [hunk 23]
```diff
@@ -0,0 +1,244 @@
...
+
+  minkowski-mul-inhabited-is-inhabited-Semigroup :
+    is-inhabited-subtype A →
+    is-inhabited-subtype B →
+    is-inhabited-subtype (minkowski-mul-Semigroup G A B)
+  minkowski-mul-inhabited-is-inhabited-Semigroup =
+    map-binary-exists
+      ( is-in-subtype (minkowski-mul-Semigroup G A B))
+      ( mul-Semigroup G)
+      λ a b a∈A b∈B → intro-exists (a , b) (a∈A , b∈B , refl)
```
Comment (VojtechStep) [inline src/group-theory/minkowski-multiplication-semigroups.lagda.md:165]: We put lambdas in parentheses even when they are the last argument, so Agda doesn't require them

File: src/group-theory/minkowski-multiplication-monoids.lagda.md (hunk 10 above)
Comment (fredrik-bakke) [reply src/group-theory/minkowski-multiplication-monoids.lagda.md:36]: Fixed here as well

**Comment by VojtechStep** [comment]
> it is strictly against the library guidelines.

Does it go against anything other that not having a declared type? That's fixable. I'd much rather see this than have the motive repeated everywhere. The local definition isn't proving a result that could be reused by another part of the codebase, it's just a local alias, and ideally it would be inferred, but we haven't put any effort into trying to convince Agda to do that

**Comment by fredrik-bakke** [comment]
> > it is strictly against the library guidelines.
> 
> Does it go against anything other that not having a declared type? That's fixable. I'd much rather see this than have the motive repeated everywhere. The local definition isn't proving a result that could be reused by another part of the codebase, it's just a local alias, and ideally it would be inferred, but we haven't put any effort into trying to convince Agda to do that

It's also part of our guidelines not to use `where` blocks.

**Comment by fredrik-bakke** [comment]
Oh, nevermind, I should've read the relevant guideline paragraph before commenting.

**Comment by VojtechStep** [comment]
The only reason I've ever heard against them is that using them tempts to put reusable stuff into inaccessible locations. Banning them outright doesn't sound like a good idea to me without strong justification, and IMO this (local alias) is exactly the use case which should be uncontroversial to allow

**Comment by VojtechStep** [comment]
I have this very bad habit of starting a conversation right as I'm going to bed; I'm gonna read any replies in ~8 hours

**Comment by fredrik-bakke** [comment]
I don't want to be too assertive here, but since you prompted me for a response:

The pattern looks aesthetically displeasing and messy to me, and I think the fact that code has to be repeated suggests that there's a better way to do things. I don't know if that's the case here, though I'd say this is one of the guiding principles of the library — that we don't try and "patch" problems locally by introducing short hands because that doesn't fix the underlying issue. Using `do` notation on the other hand would be closer to what I'd consider "fixing the issue".

**Comment by VojtechStep** [comment]
Using do notation here is exactly the same, except you spell `where claim = X` as `where open do-notation X`

**Comment by lowasser** [comment]
My intention had been to continue using that style until a decision got made on #1306.  I can inline the `claim` variants until that happens, though.

File: src/group-theory/minkowski-multiplication-commutative-monoids.lagda.md (hunk 2 above)
Comment (lowasser) [reply src/group-theory/minkowski-multiplication-commutative-monoids.lagda.md:34]: Aha.  I hadn't realized what `WDID` and `WD` stand for, or I would've figured out how to add them myself.  Is there some documentation somewhere saying that that I missed?

File: src/group-theory/minkowski-multiplication-commutative-monoids.lagda.md (hunk 3 above)
Comment (lowasser) [reply src/group-theory/minkowski-multiplication-commutative-monoids.lagda.md]: FWIW, my experimentation has found that the leading argument of `map-exists` tends to mean that it doesn't really simplify much.  I'll do it here, though.

File: src/group-theory/minkowski-multiplication-commutative-monoids.lagda.md (hunk 1 above)
Comment (lowasser) [reply src/group-theory/minkowski-multiplication-commutative-monoids.lagda.md:1]: I promise, you can just tell me to fix all of these, and I'll go find them myself -- you don't have to find them all and fix them yourself!

File: src/group-theory/minkowski-multiplication-semigroups.lagda.md (hunk 23 above)
Comment (lowasser) [reply src/group-theory/minkowski-multiplication-semigroups.lagda.md]: Yes, and I usually catch that from Agda's autocomplete things.  My bad.

File: src/group-theory/minkowski-multiplication-commutative-monoids.lagda.md (hunk 3 above)
Comment (lowasser) [reply src/group-theory/minkowski-multiplication-commutative-monoids.lagda.md]: I've done it, but it honestly looks to me like it's made things substantially more complicated.

**Comment by lowasser** [comment]
(I misread the earlier comment that they are okay for now, and I'm leaving them in.)

File: src/group-theory/minkowski-multiplication-commutative-monoids.lagda.md (hunk 2 above)
Comment (fredrik-bakke) [reply src/group-theory/minkowski-multiplication-commutative-monoids.lagda.md:37]: It doesn't look like this change got implemented.

**Comment by fredrik-bakke** [comment]
It doesn't look like all of my suggestions got implemented, @lowasser. Do you still have unpushed changes locally?

File: src/group-theory/minkowski-multiplication-commutative-monoids.lagda.md (hunk 3 above)
Comment (fredrik-bakke) [reply src/group-theory/minkowski-multiplication-commutative-monoids.lagda.md]: I agree with you. Feel free to revert.

**Comment by lowasser** [comment]
Some very strange things kept happening when I tried to commit the code review suggestions, and things kept vanishing.  I will go through manually.

File: src/group-theory/minkowski-multiplication-commutative-monoids.lagda.md (hunk 2 above)
Comment (VojtechStep) [reply src/group-theory/minkowski-multiplication-commutative-monoids.lagda.md]: > Is there some documentation somewhere saying that that I missed?

Nope, the `#concept` macro is still undocumented. It's original purpose was to tag our formalization with wikidata identifiers, so that this other project could create a hub presenting formalizations of one concept in different libraries. It was pretty underspecified, and the other project is now down, but we kept the annotations for organizational purposes. But no one ever did any requirements gathering, I just implemented whatever came to mind and wasn't too time consuming, expecting us to one day sit down and specify what we want it to do

File: src/group-theory/minkowski-multiplication-commutative-monoids.lagda.md [hunk 24]
```diff
@@ -0,0 +1,290 @@
...
+
+  minkowski-mul-Commutative-Monoid :
+    subset-Commutative-Monoid (l1 ⊔ l2 ⊔ l3) M
+  minkowski-mul-Commutative-Monoid =
+    minkowski-mul-Monoid (monoid-Commutative-Monoid M) A B
+```
+
+## Properties
+
+### Minkowski multiplication of commutative monoid subsets is associative
```
Comment (fredrik-bakke) [inline src/group-theory/minkowski-multiplication-commutative-monoids.lagda.md:58]:
```suggestion
### Minkowski multiplication on subsets of a commutative monoid is associative
```

File: src/group-theory/minkowski-multiplication-commutative-monoids.lagda.md [hunk 25]
```diff
@@ -0,0 +1,290 @@
...
+      ( C) ＝
+    minkowski-mul-Commutative-Monoid
+      ( M)
+      ( A)
+      ( minkowski-mul-Commutative-Monoid M B C)
+  associative-minkowski-mul-Commutative-Monoid =
+    associative-minkowski-mul-Monoid (monoid-Commutative-Monoid M) A B C
+```
+
+### Minkowski multiplication of commutative monoid subsets is unital
```
Comment (fredrik-bakke) [inline src/group-theory/minkowski-multiplication-commutative-monoids.lagda.md:82]:
```suggestion
### Minkowski multiplication on subsets of a commutative monoid is unital
```

File: src/group-theory/minkowski-multiplication-monoids.lagda.md (hunk 10 above)
Comment (fredrik-bakke) [reply src/group-theory/minkowski-multiplication-monoids.lagda.md:36]: This is still missing

**Review by fredrik-bakke — APPROVED** [review]
There's one change request that is still pending, but other than that this PR looks ready to be merged to me.

File: src/group-theory/minkowski-multiplication-monoids.lagda.md (hunk 10 above)
Comment (lowasser) [reply src/group-theory/minkowski-multiplication-monoids.lagda.md]: I see it as committed in the latest version.
